US08076487B2
Toluene (20 mL), thionyl chloride (1.3 g, 10.7 mmol) and a catalytic amount of N,N′-dimethylformamide were added to 1,2-dihydro-2-oxo-1-phenylmethyl-6-(trifluoromethyl)pyri-dine-3-carboxylic acid (2.0 g, 7.2 mmol), and the mixture was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure to obtain 1,2-dihydro-2-oxo-1-phenylmethyl-6-(trifluoromethyl)pyridine-3-carbonyl chloride. The obtained acid chloride was dissolved in acetonitrile (30 mL), and 1,3-cyclohexanedione (0.9 g, 7.9 mmol) and sodium cyanide (0.8 g, 15.8 mmol) were added thereto. This mixture was stirred for a day at room temperature. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and then dried over anhydrous magnesium sulfate. After separating the inorganic substance by filtration, the solvent was distilled off under reduced pressure and thus obtained concentrated solution was purified by column chromatography, to obtain 1.5 g of a desired product (yield: 68%).

reactant | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 10.7 mmol, 1.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1,2-dihydro-2-oxo-1-phenylmethyl-6-(trifluoromethyl)pyri-dine-3-carboxylic acid | 7.2 mmol, 2.0 g | O=C1N(C(=CC=C1C(=O)O)C(F)(F)F)CC1=CC=CC=C1 | C14H10F3NO3
solvent | N,N′-dimethylformamide | CN(C)C=O | C3H7NO
product | 1,2-dihydro-2-oxo-1-phenylmethyl-6-(trifluoromethyl)pyridine-3-carbonyl chloride | O=C1N(C(=CC=C1C(=O)Cl)C(F)(F)F)CC1=CC=CC=C1 | C14H9ClF3NO2
